US04959460
4.88 g (12.2 mmol) of 2,3,4-tri-O-acetyl-α-L-xylopyranosyl bromide was dissolved in 40 ml of N,N-dimethylformamide, and 4.5 g (69.2 mmol) of sodium azide was added. The mixture was allowed to react at room temperature for 18 hours. The reaction mixture was then concentrated under reduced pressure and the residue extracted with chloroform (250 ml). The chloroform layer was washed with water (250 ml), dehydrated over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography (Waggle C-200, 40 g) and eluted with chloroform-methanol (100:1). The eluate was crystallized from ethyl acetate-hexane to obtain 2.95 g (9.79 mmol, 68%) of 2,3,4-tri-O-acetyl-β-L-xylopyranosyl azide as a colorless needle crystal. The following are the physicochemical properties of this crystalline compound.

reactant | 2,3,4-tri-O-acetyl-α-L-xylopyranosyl bromide | 12.2 mmol, 4.88 g | C(C)(=O)O[C@@H]1[C@@H](OC[C@@H]([C@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO7
reactant | sodium azide | 69.2 mmol, 4.5 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2,3,4-tri-O-acetyl-β-L-xylopyranosyl azide | 9.79 mmol, 2.95 g, 68% | C(C)(=O)O[C@@H]1[C@H](OC[C@@H]([C@H]1OC(C)=O)OC(C)=O)N=[N+]=[N-] | C11H15N3O7
